US08309734B2
[2-(2,5-Dichloro-phenoxy)-6-trifluoromethyl-pyridin-3-yl]-(3,4-dihydro-2H-quinolin-1-yl)-methanone
The title compound was prepared in analogy to Example 25, Step 2, replacing (2-chloro-5-fluoro-pyridin-3-yl)-(3,4-dihydro-2H-quinolin-1-yl)-methanone with (2-chloro-6-trifluoromethyl-pyridin-3-yl)-(3,4-dihydro-2H-quinolin-1-yl)-methanone and 3-chloro-phenol with 2,5-dichloro-phenol ([CAS RN 583-78-8]). MS (ISP): 467.1 [M+H]+.

reactant | (2-chloro-6-trifluoromethyl-pyridin-3-yl)-(3,4-dihydro-2H-quinolin-1-yl)-methanone | ClC1=NC(=CC=C1C(=O)N1CCCC2=CC=CC=C12)C(F)(F)F | C16H12ClF3N2O
reactant | 3-chloro-phenol | ClC=1C=C(C=CC1)O | C6H5ClO
reactant | 2,5-dichloro-phenol | ClC1=C(C=C(C=C1)Cl)O | C6H4Cl2O
product | [2-(2,5-Dichloro-phenoxy)-6-trifluoromethyl-pyridin-3-yl]-(3,4-dihydro-2H-quinolin-1-yl)-methanone | ClC1=C(OC2=NC(=CC=C2C(=O)N2CCCC3=CC=CC=C23)C(F)(F)F)C=C(C=C1)Cl | C22H15Cl2F3N2O2
